US05061793
A solution of 0.5 g (0.936 mmol) of 1-(6-chloro-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose dissolved in 75 ml of absolute ethanol was saturated with anhydrous ammonia at about 0° C. The reaction flask was sealed, and the mixture was allowed to warm to room temperature. The mixture was stirred for about 72 hours at room temperature and the volatiles were evaporated under reduced pressure to provide 420 mg of 1-(6-amino-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose.

reactant | 1-(6-chloro-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose | 0.936 mmol, 0.5 g | ClC1=C2N=CN(C2=NC=N1)C(=O)C([C@](O)([C@H](O)C(O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)(F)F | C22H37ClF2N4O6Si2
reactant | ammonia | N | H3N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-(6-amino-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose | 420 mg | NC1=C2N=CN(C2=NC=N1)C(=O)C([C@](O)([C@H](O)C(O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)(F)F | C22H39F2N5O6Si2
